Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want to be home." 

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including ___ note dated ___ and Dr. 
___ admission note dated ___. 
. 
Briefly, this is a ___ year old woman, currently a sophomore at 
___, history of affective instability, reactive mood, self 
injurious behaviors, chronic suicidal ideation, no prior 
psychiatric hospitalizations, unremarkable past medical history 
who presented to ___ from ___ behavioral ___ due to concerns 
for worsening depression, suicidal ideation and self injurious 
behaviors at school. 
.
Per admission note, patient has reportedly been yelling and 
"flipping off" other students, punching herself in the face, 
banging her head against the bathroom stall and contemplating 
cutting herself with a knife. In the ED, Ms. ___ reported 
daily suicidal ideation stating, "I think I want to but I'm not 
brave enough to actually follow through and being sad because I 
can't." Reported she had stabbed herself in her neck with a key 
2 weeks ago. Reported feeling sad, overwhelmed, "like a burden" 
with feelings of guilt about "everything." Ms. ___ also 
reported increased sleep, poor energy, decreased appetite with 
feelings of sadness, depression, loneliness and intermittent 
suicidal ideation with intent or plan. 
. 
Collateral from ___ concerning for worsening depression over the 
past ___ months with self injurious behaviors in class, with 
patient punching herself, banging her head on walls and 
struggling with the Fine Arts program. Patient has reportedly 
been studying to be an ___ and has been blaming the faculty 
for not giving her better roles. A leave of absence has been 
suggested, but patient has been resistant to this. 
. 
Per collateral obtained from Dr. ___, who had only seen 
the patient twice, patient reported feeling hopeless, depressed, 
with intermittent suicidal ideation. Dr. ___ considered 
sectioning her but patient was future oriented and contracted 
for safety. Plan was for patient to take a leave of absence and  
return to ___ to spend ___ with her family. 
Dr. ___ also spoken with the patient's ___, who was 
planning to come to ___ and to meet with Dr. ___ to discuss 
a leave of absence. 
. 
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Upon interview with Ms. ___, who was able to provide a 
relatively clear and coherent history, she has been struggling 
with depression since childhood, stating, "I've always been 
very, very sensitive my entire life and I feel like I can't 
control my emotions-- I get exhausted from crying so much 
because my emotions get so high and I don't know what to do with 
myself." 

Very, very sensitive my entire life and always felt like I can't 
control my emotions. I get exhausted from crying so much because 
my emotions get so high and I don't know what to do with them. 
Has hit myself when I get embarrassed. Feels hopeless and 
helpless after the election. I feel better about it now. 
Described chronic feelings of emptiness and loneliness, noting 
frustration that her "emotions get in the way of my work and I 
get upset with myself because I can't be like everyone else who 
can assess the situation before they react." 
. 
Ms. ___ reported she has been struggling more since last 
semester, stating her program is "more focused towards people 
who are not emotionally connected and I'm emotionally 
connected." Reported feeling the program at ___ is not a good fit 
and has noted she is frequently overwhelmed with school, "it 
brings up a lot of emotions and it's hard to deal with them in a 
way that is manageable." 
She stated she spends the day going to classes, studying, going 
home, crying and then going to bed. 
.
Patient reported having more difficulty enjoying life but states 
she still enjoys watching Netflix and biking to class. Stated 
she has been sleeping well, about ___ hours per night but with 
poor energy, concentration. Reported feelings of worthlessness 
and states she feels underappreciated at ___. Reported erratic 
appetite, stating at times she "forgets to eat," denied 
restricting food or binging or purging. Reports periods of 
suicidal ideation but stated, "I haven't really thought about it 
a lot because I think there are better outlets for my 
emotions... sometimes I think I wish I could disappear." Denied 
current suicidal ideation, and stated she felt better now that 
her father was here. 
. 
In this setting, patient reports she came to the ___ for a 
leave of absence letter. Reported that she currently feels safe, 
"I feel like I need to take time for myself to relax." Denied 
history of manic symptoms including decreased need for sleep, 
increased energy, worsening impulsivity, grandiosity. Denied 
history of psychosis including auditory or visual 
hallucinations, paranoia. 
. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: Depression, borderline personality disorder 
(recently diagnosed by Dr. ___, anxiety 
- Hospitalizations: none 
- SA/SIB: see HPI; at age ___ cut her wrist after becoming upset 
with something her mother had said. No prior suicide attempts 
- Medication Trials: none 
- Psychiatrist/Therapist: Dr. ___ ___. Has 
only been seeing for 2 weeks. 

Past medical history:
Denies 
 
Social History:
Substance use history:
- Alcohol: history of binge drinking, 1 blackout over the 
summer. 
- Illicits: cannnabis, once a day for anxiety 
- Tobacco: none 

Personal and Social History: ___
Family History:
Family psychiatric history:
- Diagnosis: none 
- Suicides: none 
- Addictions: none
 
Physical Exam:
VS: T:98.0, BP:119/81 , HR:74 , R:16 , O2 sat: 100% on RA

General: Well-nourished, well-developed. Appears stated age. No
acute distress. 
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. 
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, non distended. 
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves: II-XII grossly intact
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor.  
 Coordination: Normal on finger to nose test. 
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status on Admission: 
 Appearance: appropriate grooming, appears stated age, wearing
street clothes
 Behavior: cooperative, appropriate eye contact, no psychomotor
agitation or retardation, anxious related to discharge planning
 Mood and Affect: "lonely, sad" / anxious related to discharge
discussion, but otherwise full range, appropriate
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia
 Judgment and Insight: guarded/guarded

 
Pertinent Results:
___: Na: 138
___: K: 4.2
___: Cl: 104
___: CO2: 22
___: BUN: 8
___: Creat: 0.8
___: Glucose: 94 

___: WBC: 5.2
___: RBC: 4.38
___: HGB: 9.2*
___: HCT: 31.3*
___: MCV: 72*
___: MCH: 21.0*
___: MCHC: 29.4*
___: RDW: 16.4*
___: Plt Count: 307
___: Neuts%: 45.2
___: Lymphs: 44.5
___: MONOS: 7.4
___: Eos: 1.7
___: BASOS: 1.0
___: AbsNeuts: 2.33

___: Benzodiazepine: NEG 
___: Barbiturate: NEG
___: Opiate: NEG 
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG 

 
Brief Hospital Course:
This is a ___ year old woman, currently a student at ___, history 
of affective instability, reactive mood, self injurious 
behaviors, chronic suicidal ideation, no prior psychiatric 
hospitalizations, unremarkable past medical history who 
presented to ___ from ___ due to concerns for 
worsening depression, suicidal ideation and self injurious 
behaviors at school. 
.
Upon interview, patient described longstanding history of being 
"very sensitive" with difficulty managing emotions, reactive 
mood, impulsivity with history of self injurious behaviors, 
affective instability with poor self esteem. Symptoms appeared 
to have worsened over the past semester in the setting of 
feeling overwhelmed with academics; patient initially reported 
worsening suicidal ideation with thoughts of cutting with a 
knife. Mental status examination notable for well groomed woman 
with good hygiene who is cooperative with interviewer, reporting 
"good" mood with anxious affect, thought process that is notably 
linear, goal and future oriented. 
. 
Diagnostically, given subjective symptoms patient likely does 
meet criteria for Major depressive disorder with symptoms of 
anxiety consistent with generalized anxiety. However, given 
longstanding symptoms, reactivity, SIB, chronic feelings of 
loneliness and emptiness, would also place emerging cluster B 
traits/borderline personality disorder at the top of 
differential. Of note, patient reported she did discuss this 
diagnosis with Dr. ___ she looked it up and agrees it 
feels consistent with what she experiences. Of note, given young 
age and good health, believe that mood disorder secondary to 
underlying medical condition is unlikely at this time. Cannabis 
may be contributing to her presentation, and recommendation 
would be to consider abstaining from this as an outpatient. 
.

#. Legal/Safety: Patient was admitted to ___ on a 
___, upon admission, refused to sign a CV. Maintained 
good behavioral control during her hospitalization with no 
episodes of unsafe behaviors. She did not require physical or 
chemical restraints during her hospitalization. 

#. Mood disorder: as above. 
- With the patient's permission, I spoke with the patient's 
father, who had flown from ___ to be with his 
daughter. Discussed the risks and benefits of initiating mood 
stabilizer such as lithium and an SSRI to target depression. 
Also discussed the risks and benefits of ongoing psychiatric 
hospitalization vs. discharge home to ___ with 
referral to partial program, which the father had arranged (see 
discharge summary). Both patient and father expressed strong 
preference for discharge back home to ___ to be with 
family and supports with plan to take a leave of absence from 
school and follow up with a partial program in her home town. 
- Recommendation would be to consider initiation of mood 
stabilizer such as Lamictal to target affective instability and 
consider initiation of an SSRI such as Celexa with close 
monitoring of side effects and efficacy. 
- Of note, with the patient's permission, I contacted Dr. ___ 
___ to update her of upcoming discharge to ___ with 
her family and plan to follow up with partial program in 
___. 

RISK ASSESSMENT: Patient it at chronically elevated risk for 
self harm with risk factors that include young age, history of 
self injurious behaviors, history of impulsivity, depression, 
current psychosocial stressors, drug use. However, she has a 
number of protective factors-- she is intelligent, educated, and 
has a very supportive family. In addition, by time of discharge, 
patient was feeling significantly better after deciding to take 
a leave of absence from school and reported feeling relieved she 
was returning home to ___ to be with her family. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ortho Tri-Cyclen (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) PO DAILY 

 
Discharge Medications:
1.  Ortho Tri-Cyclen (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Borderline Personality Disorder

 
Discharge Condition:
VS: 98.1    121/81   90    16   99%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: anxious, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression, 
suicidal ideation.  We discussed the case with your father, who 
felt comfortable with discharge home with intake for partial 
program in ___. 
 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 

 
Followup Instructions:
___